US06313114B1
[3-(5-Fluoro-1H-indol-3-yl)-propyl]-(4-methyl-3,4-dihydro-2H-benzo[1,4]oxazin-2-yl-methyl)-amine
A solution of 4-methyl-3,4-dihydro-2H-benzo[1,4]oxazin-2-yl-methylamine (0.45 g, 2.5 mmol) and 5-fluoro-indolyl-3-propylbromide (0.6 g, 2.5 mmol), and triethylamine (0.5 g) in dimethylsulfoxide (20 mL) was heated to 100° C. for 10 hours. The reaction mixture was poured into water (100 mL) and extracted with methylene chloride (3×50 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered, and the solvent removed under vacuum. Chromatography (10% methanol-methylene chloride) afforded 0.42 g (47%) of desired product as a yellowish brown oil. The oxalate salt was prepared in ethanol: mp 189-190° C.

reactant | 4-methyl-3,4-dihydro-2H-benzo[1,4]oxazin-2-yl-methylamine | 2.5 mmol, 0.45 g | CN1CC(OC2=C1C=CC=C2)NC | C10H14N2O
reactant | 5-fluoro-indolyl-3-propylbromide | 2.5 mmol, 0.6 g | FC=1C=C2C=C(NC2=CC1)C(CC)Br | C11H11BrFN
reactant | triethylamine | 0.5 g | C(C)N(CC)CC | C6H15N
reactant | water | 100 mL | O | H2O
reactant | dimethylsulfoxide | 20 mL | CS(=O)C | C2H6OS
product | [3-(5-Fluoro-1H-indol-3-yl)-propyl]-(4-methyl-3,4-dihydro-2H-benzo[1,4]oxazin-2-yl-methyl)-amine | 0.42 g, 47% | FC=1C=C2C(=CNC2=CC1)CCCNCC1OC2=C(N(C1)C)C=CC=C2 | C21H24FN3O
